US04360525
(a) 1'-methyl-spiro[benzothiazolin-2,4'-piperidine]
A mixture of 125.5 g 2-amino-thiophenol, 147 g N-methyl-4-piperidone, 2 ml acetic acid and 400 ml toluene is refluxed with a water separator for 2 hours. The mixture is evaporated in vacuo. The residue is recrystallised from methylene chloride/ether/petroleum ether to give the heading compound, m.p. 135°-140°.

reactant | 2-amino-thiophenol | 125.5 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | N-methyl-4-piperidone | 147 g | CN1CCC(CC1)=O | C6H11NO
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 1'-methyl-spiro[benzothiazolin-2,4'-piperidine] | CN1CCC2(CC1)SC1=C(N2)C=CC=C1 | C12H16N2S
